data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_111690_0,[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](\[O:6][H:8])[H:10])=[N:7]/[H:9])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])([C:5](=[O:6])[H:10])[H:8])=[N:7]/[H:9])([H:11])([H:12])[H:13],58.613520000042456
MR_102174_0,[C:1]1([C:4]([O:6][H:9])=[O:7])([O:5][H:8])[C:2]([H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:4]([O:6][H:9])=[O:7])([H:10])[H:11])(=[C:3]([H:12])[H:13])[O:5][H:8],69.89597000002107
MR_378269_0,[C:1]([N:2]([C:3]([O:7][H:9])=[O:8])[H:10])([N:4]([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[H:11]>>[C:1]1([N:4]([H:12])[H:13])([H:11])[N:2]([H:10])[C:3](=[O:8])[O:7][C:5]1([C:6]([H:9])([H:15])[H:16])[H:14],54.50715999995893
MR_138071_0,[C:1]([N:4]([C:6]([C:3]([H:15])([H:16])[H:17])=[O:7])[H:8])([N:5]([C:2]([H:12])([H:13])[H:14])[H:9])([H:10])[H:11]>>[C:1]([N:4]([N:5]([C:2]([H:12])([H:13])[H:14])[H:9])[H:8])([C:6]([C:3]([H:15])([H:16])[H:17])=[O:7])([H:10])[H:11],61.3782850000176
MR_354945_0,[C@:1]1([C:3]([O:5][H:8])=[O:7])([H:9])[C:2](=[O:6])[O:4]1>>[C:1]([C:2]([C:3]([O:5][H:8])=[O:7])=[O:6])(=[O:4])[H:9],40.35829000001215
MR_107294_0,[C:1]([N:3]([N:4]([H:7])[H:8])/[N:6]=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])([N:6][N:3][N:4]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],71.16289249999696
MR_633310_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([N:5]([H:12])[H:13])([O:8][H:11])[O:9][H:10])=[C:6]([H:17])[H:18])=[O:7]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([N:5]([H:12])[H:13])=[O:9])=[C:6]([H:17])[H:18])([O:7][H:10])[O:8][H:11],27.11992249997806
MR_148451_0,[C:1]([O:6][C:4]1=[C:5]([H:7])[N:3]1[C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:6][C:4]1([C:2]([H:11])([H:12])[H:13])[N:3]=[C:5]1[H:7])([H:8])([H:9])[H:10],58.658699999999726
MR_50073_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([O:7][H:10])[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][O:6][H:9])[O:8]1>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([O:5][O:6][H:9])[O:7][H:10],24.07591999999454
MR_498402_1,[C:1](/[C:5]([N:3]([C:4]([O:8][H:10])=[O:9])[H:11])=[C:6](/[C:2]([H:17])([H:18])[H:19])[N:7]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:5](=[N:3]/[H:11])[C@:6]([C:2]([H:17])([H:18])[H:19])([C:4]([O:8][H:10])=[O:9])[N:7]([H:12])[H:13])([H:14])([H:15])[H:16],71.73328999994794
MR_557599_2,[C:1]([N:3](/[C:4]([N:6]([H:9])[H:10])=[N:7]\[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])=[N:7]/[H:11])[N:6]([H:9])[H:10])([H:12])([H:13])[H:14],54.10304999998047
MR_316319_0,[C:1]1([H:15])([H:16])/[C:3](=[N:8]/[H:13])[N:2]([N:5]([H:9])[H:10])[C:7]([H:14])=[C:4]1[N:6]([H:11])[H:12]>>[C:1]1([H:15])([H:16])/[C:3](=[N:8]/[H:13])[C:4]1([N:6]([H:11])[H:12])/[C:7](=[N:2]/[N:5]([H:9])[H:10])[H:14],66.80616000001052
MR_316558_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[O:8][H:9])(/[C:7](=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:6]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C:7]1([C:5]([C:3]([H:18])([H:19])[H:20])([N:6]([H:10])[H:11])[O:8][H:9])[H:14],70.55421749996427
MR_293445_1,[C:1]1([H:12])([H:13])/[C:4](=[N:8]/[H:11])[N:3]([N:6]([H:9])[H:10])[N:7]=[C:5]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:12])([H:13])[C:4]([N:8][H:11])[C@:5]1([C:2]([H:14])([H:15])[H:16])[N:7][N:3][N:6]([H:9])[H:10],67.31882750000025
MR_48032_0,[C:1]([N:5]([C:6]([C:2]([H:12])([H:13])[H:14])=[C:7]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:5]=[C:6](\[C:2]([H:12])([H:13])[H:14])[C:7]([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[H:8])([H:9])([H:10])[H:11],59.92938749996611
MR_578425_1,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])([C:4](=[C:5]([H:15])[H:16])[O:7][H:9])([H:10])[H:11]>>[C:1](=[C:4]([C:5]([N:3]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])([H:15])[H:16])[O:7][H:9])([H:10])[H:11],70.16391249998662
MR_380646_0,[C:1]([C:2]([C:4]([N:6]([H:12])[H:13])=[O:8])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[C:7](=[O:9])[H:16]>>[C:1](\[C:2]([C:4]([N:6]([H:12])[H:13])([C:7](=[O:9])[H:16])[O:8][H:10])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])=[N:5]/[H:11],63.43774000002568
MR_611166_1,[C:1]1([C:2]([H:12])([H:13])[H:14])(/[C:6](=[C:7](\[C:3]([H:15])([H:16])[H:17])[H:11])[H:10])[N:4]([H:9])[C:5]1=[O:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([N:4]([C:5](=[O:8])[H:15])[H:9])=[C:6](/[C:7](=[C:3]([H:16])[H:17])[H:11])[H:10],35.17325750001248
MR_376068_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]\[H:12])([N:6]([H:10])[H:11])[H:9]>>[C:1]1([N:6]([H:10])[H:11])([H:9])[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[N:7]1[H:12],58.358127500009545
